US06297235B1
a) Methyl 4-methyl-2-thiazole carboxylate
To a solution of 4-methylthiazole (10 g) in anhydrous tetrahydrofuran (200 ml) was added n-butyl lithium in hexane (34.65 ml of 1.6M solution) dropwise at −78° C. The solution was stirred at −78° C. for 1 hour, at which point carbon dioxide gas was passed through the solution for 20 mins at −78° C. The solution was then allowed to warm to room temperature over 2 hours, the precipitate was filtered off, dissolved in methanol (200 ml) and added to methanolic hydrogen chloride (200 ml). The solution was stirred at room temperature overnight. The solvent was removed under vacuum and diethyl ether was added to the residue. The resultant solid was filtered off to yield the title compound as a white solid (2.2 g). 1H NMR (250 MHz, DMSO) δ 2.44 (3H, s), 3.89 (3H, s), 7.74 (1H, s).

reactant | 4-methylthiazole | 10 g | CC=1N=CSC1 | C4H5NS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M, 34.65 ml | CCCCCC | C6H14
product | Methyl 4-methyl-2-thiazole carboxylate | 2.2 g | CC=1N=C(SC1)C(=O)OC | C6H7NO2S
